US07943612B2
{4-[3-(3,5-Dibromo-phenyl)-prop-2-ynyloxy]-2-methyl-phenoxy}-acetic acid
A solution of {4-[3-(3,5-dibromo-phenyl)-prop-2-ynyloxy]-2-methyl-phenoxy}-acetic acid methyl ester (207 mg, 0.44 mmol) in ethanol (50 ml) and 1N NaOH (5 ml) was stirred at 75° C. for 30 min. The reaction mixture was evaporated and the residue dissolved in water (10 ml). Aqueous 1N HCl (5 ml) was added and the mixture was extracted with methylene chloride (3×10 ml). The combined organic phases were dried and evaporated to give the title compound in 187 mg (93%) yield.

reactant | {4-[3-(3,5-dibromo-phenyl)-prop-2-ynyloxy]-2-methyl-phenoxy}-acetic acid methyl ester | 0.44 mmol, 207 mg | COC(COC1=C(C=C(C=C1)OCC#CC1=CC(=CC(=C1)Br)Br)C)=O | C19H16Br2O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 5 ml | [OH-].[Na+]
product | {4-[3-(3,5-Dibromo-phenyl)-prop-2-ynyloxy]-2-methyl-phenoxy}-acetic acid | BrC=1C=C(C=C(C1)Br)C#CCOC1=CC(=C(OCC(=O)O)C=C1)C | C18H14Br2O4
